2123-01-03 07:42:00 Physician Resident Progress Note
Chief Complaint: 83 yo M w/ h/o congenital deafness, HTN, DM, CAD,
   osteoarthritis and L subclavian steal syndrome admitted s/p ERCP for
   cholangitis c/b ARF and respiratory failure.  Stable and transferred to
   floor
 now readmitted intubated s/p hypoxic respiratory arrest in the
   setting of aspiration.  Also with worsening leukocytosis and severe
   gastric dilatation concerning for obstruction.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2123-1-2**] 01:35 PM
 MULTI LUMEN - START [**2123-1-2**] 01:45 PM
 DIALYSIS CATHETER - START [**2123-1-2**] 03:59 PM
 BRONCHOSCOPY - At [**2123-1-2**] 04:39 PM
 ARTERIAL LINE - START [**2123-1-2**] 10:49 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-3**] 12:00 AM
   Metronidazole - [**2123-1-3**] 05:20 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.23 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-3**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.6
   HR: 103 (96 - 130) bpm
   BP: 101/49(68) {76/41(-20) - 121/76(91)} mmHg
   RR: 30 (20 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.7 kg (admission): 82 kg
   Height: 65 Inch
    CVP: 11 (9 - 18)mmHg
   Total In:
                                                                  5,490 mL
                                                                  1,089 mL
   PO:
   TF:
   IVF:
                                                                  5,060 mL
                                                                    709 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    600 mL
                                                                    350 mL
   Urine:
   NG:
                                                                    600 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  4,890 mL
                                                                    739 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 540) mL
   Vt (Spontaneous): 638 (638 - 638) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/37/64/20/-3
   Ve: 14.5 L/min
   PaO2 / FiO2: 64
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   9.5 g/dL
   150 mg/dL
   4.3 mg/dL
   20 mEq/L
   6.3 mEq/L
   47 mg/dL
   107 mEq/L
   141 mEq/L
   29.2 %
   39.0 K/uL
        [image002.jpg]
                             [**2122-12-29**]  10:21 PM
                             [**2122-12-30**]  03:59 AM
                             [**2122-12-30**]  03:50 PM
                             [**2123-1-2**]  02:51 PM
                             [**2123-1-2**]  03:11 PM
                             [**2123-1-2**]  09:23 PM
                             [**2123-1-2**]  10:32 PM
                             [**2123-1-2**]  11:44 PM
                             [**2123-1-3**]  02:56 AM
                             [**2123-1-3**]  06:17 AM
   WBC
   28.5
   27.0
   27.8
   39.0
   Hct
   22.1
   24.1
   30.8
   27.8
   29.2
   Plt
   247
   257
   223
   224
   Cr
   2.3
   3.5
   4.0
   4.3
   TropT
   0.42
   0.38
   TCO2
   24
   27
   24
   23
   22
   Glucose
   124
   81
   68
   150
   Other labs: PT / PTT / INR:16.0/40.1/1.4, CK / CKMB /
   Troponin-T:47/3/0.38, ALT / AST:14/28, Alk Phos / T Bili:72/0.9,
   Amylase / Lipase:148/11, Differential-Neuts:86.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Fibrinogen:560
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:1.5 g/dL, LDH:386 IU/L, Ca++:7.0
   mg/dL, Mg++:2.3 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis c/b ARF and
   respiratory failure.  Stable and transferred to floor
 now readmitted
   intubated s/p hypoxic respiratory arrest in the setting of aspiration.
   Also with worsening leukocytosis and severe gastric dilatation
   concerning for obstruction.
   # Hypoxic respiratory failure:  Aspirated on [**2123-1-2**] in setting of
   ileus and gastric distention.  Bronch showed bilious purulence in major
   airways.  CXR evolution with bilateral effusions consistent with ARDS.
   [**Month (only) 51**] be aggravated by volume overload from IVF to manage sepsis.  Meets
   ARDS criteria.
   - ARDSnet protocol
   - F/U sputum culture
   - Broad antibiotic coverage for aspiration PNA
   (meropenem/gent/vanco/flagyl/fluconazole)
   - Consider vancomycin PR for empiric treatment of c. diff despite neg
   c. diff studies
   # Shock:  Likely secondary to bacterial sepsis and aggravated by
   third-spacing secondary to pancreatitis.
   - continue to balance CVP and hypotension goals with pulmonary edema
   and hypoxia given high ventilator requirement
   - attempt to wean levophed, vasopressin
   - check CVO2
   - antibiotics as above
   - Cycle enzymes and EKGs to r/o cardiac event (or demand ischemia)
   # Pancreatitis:  Pt noted to have cholangitis and pancreatitis on ERCP
   examination; two stones were extracted from the ampulla and common
   hepatic duct and a sphincterotomy was performed [**12-19**].  Now has areas of
   necrosis, ileus, and gastric dilatation with bilious vomiting.  Surgery
   following and state there is no indication for surgery at this time.
   - continue supportive care
   - OGT to suction
   - F/U surgery recs
   #Leukocytosis: Initially thought due to c. diff colitis, and although
   c. diff negative, had started resolving with PO vanc.  Now rising again
   (with bandemia) in setting of aspiration and hypotension.  Unclear
   source, although PNA or abdominal sources are likely.
   - Pan culture
   - restart flagyl and consider PR vanco
   - ID following
   # DIC:  Mild coagulopathy; will check DIC labs q12h.
   # [**Last Name (un) **] on CKD:  Renal following, appreciate reccs.  Will restart CVVH
   for hyperkalemia (K 6.3 w/o EKG changes).
   - renally dose meds
   - continue CVVH for now
   # ?Pulmonary embolism:  Unclear if patient actually has PE.
   - will hold heparin for now given low suspicion for PE at this point
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-1-2**] 01:45 PM
   Dialysis Catheter - [**2123-1-2**] 03:59 PM
   Arterial Line - [**2123-1-2**] 10:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-01-03 09:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2123-1-2**] 01:35 PM
 MULTI LUMEN - START [**2123-1-2**] 01:45 PM
 BRONCHOSCOPY - At [**2123-1-2**] 04:39 PM
 FEMORAL ARTERIAL LINE - START [**2123-1-2**] 10:49 PM
   CT scan showing bowel obstruction by pancreatic head
   Started norepi/vasopressin
   Surgery consult
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-3**] 12:00 AM
   Metronidazole - [**2123-1-3**] 05:20 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.23 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-3**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.6
   HR: 103 (96 - 130) bpm
   BP: 101/49(68) {76/41(-20) - 121/76(91)} mmHg
   RR: 30 (20 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.7 kg (admission): 82 kg
   Height: 65 Inch
   CVP: 11 (9 - 18)mmHg
   Total In:
                                                                  5,490 mL
                                                                  1,151 mL
   PO:
   TF:
   IVF:
                                                                  5,060 mL
                                                                    771 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    600 mL
                                                                    350 mL
   Urine:
   NG:
                                                                    600 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  4,890 mL
                                                                    801 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 540) mL
   Vt (Spontaneous): 638 (638 - 638) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.36/37/64/20/-3
   Ve: 13.8 L/min
   PaO2 / FiO2: 64
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : Bases)
   Abdominal: Soft, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   224 K/uL
   150 mg/dL
   4.3 mg/dL
   20 mEq/L
   6.2 mEq/L
   47 mg/dL
   107 mEq/L
   141 mEq/L
   29.2 %
   39.0 K/uL
        [image002.jpg]
                             [**2122-12-29**]  10:21 PM
                             [**2122-12-30**]  03:59 AM
                             [**2122-12-30**]  03:50 PM
                             [**2123-1-2**]  02:51 PM
                             [**2123-1-2**]  03:11 PM
                             [**2123-1-2**]  09:23 PM
                             [**2123-1-2**]  10:32 PM
                             [**2123-1-2**]  11:44 PM
                             [**2123-1-3**]  02:56 AM
                             [**2123-1-3**]  06:17 AM
   WBC
   28.5
   27.0
   27.8
   39.0
   Hct
   22.1
   24.1
   30.8
   27.8
   29.2
   Plt
   247
   257
   223
   224
   Cr
   2.3
   3.5
   4.0
   4.3
   TropT
   0.42
   0.38
   TCO2
   24
   27
   24
   23
   22
   Glucose
   124
   81
   68
   150
   Other labs: PT / PTT / INR:16.0/40.1/1.4, CK / CKMB /
   Troponin-T:47/3/0.38, ALT / AST:14/28, Alk Phos / T Bili:72/0.9,
   Amylase / Lipase:148/11, Differential-Neuts:86.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Fibrinogen:560
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:1.5 g/dL, LDH:386 IU/L, Ca++:7.0
   mg/dL, Mg++:2.3 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis c/b ARF and
   respiratory failure.  Stable and transferred to floor
 now readmitted
   intubated s/p hypoxic respiratory arrest in the setting of aspiration
   [**12-21**] bowel obstruction from head of pancreas.  Has severe septic shock
   and ARDS.
   # Hypoxic respiratory failure/ARDS:  This is in the setting of
   worsening tachypnea over the last few days.  This is likely due to
   intermittent aspiration with a large-volume aspiration event this am.
   Bronch showed bilious pus in major airways.  Meets ARDS criteria.
   - ARDSnet protocol; will place esophageal balloon to guide PEEP
   - F/U bronchial washings
   - Broad antibiotic coverage for aspiration PNA
   vanc/meropenem/gent/fluc
   - Wean FiO2 as tolerated
   #Septic shock: Aspiration PNA, pancreatitis, bowel microperf are
   potential sources.  On 2 pressors.
   - F/U cx
   - Continue vanc/gent/[**Last Name (un) 614**]/fluc and follow-up with ID consult team
   - Consider changing to caspo if clear evidence of bowel perforation
   - Wean norepi then vasopressin as tolerated
   - Follow CVP, cVO2 sat and titrate IVF
   - Cycle enzymes and EKGs to r/o cardiac event (or demand ischemia)
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   Now with bowel obstruction [**12-21**] pancreatic head: Not a surgical
   candidate at this time.
   - Follow-up final CT read
   - F/U surgery recs
   # [**Last Name (un) **] on CKD: Persistent renal failure on HD (got this am) [**12-21**] to ATN,
   now s/p contrast load for CT.
   - CVVHD to start this am
   - F/U renal recs
   #Leukocytosis: Initially thought due to c. diff colitis, and although
   c. diff negative, had started resolving with PO vanc.  Now rising again
   in setting of aspiration and hypotension.  6%bands.  Unclear source,
   although PNA or abdominal sources are likely.
   - Pan culture
   - ID following
   - Abx as above
   - Continue c.diff PR vanc/ IV flagyl
   #Coagulopathy: Likely consistent with early DIC
   - F/U DIC labs q12 hours
   # ?Pulmonary embolism:  Unclear if patient actually has PE
 unable to
   get CTA at this time due to lack of PIV access.
   - Hold heparin in the interim given possibility of needing surgery and
   concerns for hemorrhagic conversion of pancreatitis.
   All other systems as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-1-2**] 01:45 PM
   Dialysis Catheter - [**2123-1-2**] 03:59 PM
   Femoral Arterial Line - [**2123-1-2**] 10:49 PM
   Prophylaxis:
   DVT: Boots, SQ heparin (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill